US06451842B1
A suspension of (S)-1-(4-chlorobenzyl)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine (2.93 g, 6.66 mmol) and Pd(OH)2 in 5% HCO2H/methanol (70 mL) was stirred at 60° C. for 3 h. The Pd catalyst was filtered off through Celite, and the filtrate was concentrated. To the residue was added 2N aqueous NaOH solution (100 mL) and the mixture was extracted with ethyl acetate (100 mL×3). The combined extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography (SiO2, AcOEt/MeOH/Et3N=85/10/5-60/30/5) gave (S)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine (1.70 g, 81%) as an oil: 1H NMR (CDCl3, 270 MHz) δ1.76 (d, J=7.3 Hz, 1 H), 2.07-2.25 (m, 1 H), 2.81-2.98 (m, 2 H), 3.02-3.11 (m, 2 H), 4.12 (s, 2 H), 4.41 (br, 1 H), 6.90 (br, 1 H), 7.45 (br, 1 H), 7.58 (dd, J=7.3 and 7.3 Hz, 1 H), 7.77 (d, J=7.3 Hz, 1 H), 8.02 (d, J=7.3 Hz, 1 H), 8.11 (s, 1H); ESI/MS n/e 316.0 (M++H, C14H16F3N3O2).

reactant | (S)-1-(4-chlorobenzyl)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine | 6.66 mmol, 2.93 g | ClC1=CC=C(CN2C[C@H](CC2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C21H21ClF3N3O2
solvent | HCO2H methanol | 70 mL | C(=O)O.CO
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | (S)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine | 1.70 g, 81% | FC(C=1C=C(C(=O)NCC(=O)N[C@@H]2CNCC2)C=CC1)(F)F | C14H16F3N3O2
